US05510353
5-Hydroxy-indole-3-carboxaldehyde amino(N-methyl-N-heptylamino)methylenehydrazone
To a solution of 0.48 g 5-benzyloxy-indole-3-carboxaldehyde amino(N-methyl-N-heptylamino)methylene hydrazone (1.1 mmol) in EtOH there is added 0.25 g 10% Pd/C. The suspension is hydrogenated overnight at 45° C. Afterwards the suspension is filtered over silica gel, the solvent is evaporated and the residue is chromatographed over silica gel (eluant:toluene/EtOH/NH3 85:15:1) to yield the title compound. The pure material is crystallized from CH2Cl2 /Hexane 2: 8.

reactant | 5-benzyloxy-indole-3-carboxaldehyde amino(N-methyl-N-heptylamino)methylene hydrazone | 1.1 mmol, 0.48 g | NC(N(CCCCCCC)C)=NN=CC1=CNC2=CC=C(C=C12)OCC1=CC=CC=C1 | C25H33N5O
solvent | EtOH | CCO | C2H6O
catalyst | Pd/C | 0.25 g | [Pd] | Pd
product | 5-Hydroxy-indole-3-carboxaldehyde amino(N-methyl-N-heptylamino)methylenehydrazone | NC(N(CCCCCCC)C)=NN=CC1=CNC2=CC=C(C=C12)O | C18H27N5O
